US07544690B2
To a solution of (ethoxy-methoxymethyl-phosphinoyl)-acetic acid ethyl ester (3.45 g, 15.4 mmol) in THF (230 mL) was added 60% sodium hydride in oil (370 mg, 15.4 mmol). The mixture was stirred at ambient temperature for 50 min and cooled at 4° C. To the reaction mixture was added 4-bromo-2-trifluoromethoxy-benzaldehyde (3 g, 11.2 mmol) in THF (100 mL). The mixture was stirred at ambient temperature for 15 hr. The solution was poured into H2O, and the aqueous layer was extracted with EtOAc (three times). The combined organic layer was dried over MgSO4, filtered, concentrated, and purified by flash chromatography (silica gel, 5% EtOAc in hexane) to give (E)-3-(4-Bromo-2-trifluoromethoxy-phenyl)-acrylic acid ethyl ester (2.98 g, 79%) as a colorless oil.

reactant | (ethoxy-methoxymethyl-phosphinoyl)-acetic acid ethyl ester | 15.4 mmol, 3.45 g | C(C)OC(CP(=O)(COC)OCC)=O | C8H17O5P
reactant | sodium hydride | [H-].[Na+]
reactant | 4-bromo-2-trifluoromethoxy-benzaldehyde | 11.2 mmol, 3 g | BrC1=CC(=C(C=O)C=C1)OC(F)(F)F | C8H4BrF3O2
reactant | H2O | O | H2O
solvent | THF | 230 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (E)-3-(4-Bromo-2-trifluoromethoxy-phenyl)-acrylic acid ethyl ester | 2.98 g, 79% | C(C)OC(\C=C\C1=C(C=C(C=C1)Br)OC(F)(F)F)=O | C12H10BrF3O3
